US04289781
The obtained intermediate 2-(4-piperidyl)-5-chloro-phthalimidine (15) (1.17 g, 0.00467 mol) was dissolved in 30 ml benzene. Potassium carbonate (1.93 g, 0.0140 mole) and potassium iodide (0.78 g, 0.00607 mole) was added whereupon 3-trifluoromethylbenzylchloride (1.18 g, 0.00607 mole) dissolved in benzene was added drop-wise at room temperature, and was then heated under reflux during three days. The inorganic salts were filtered off and the filtrate was evaporated to dryness in vacuum. The residue was re-crystallized with cyclohexane isopropylether (M.p. 115°-117° C., yield 63%).

reactant | Potassium carbonate | 0.0140 mole, 1.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.00607 mole, 0.78 g | [I-].[K+]
reactant | 3-trifluoromethylbenzylchloride | 0.00607 mole, 1.18 g | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | cyclohexane isopropylether | yield 63% | C1CCCCC1.C(C)(C)OC(C)C | InChI=1S/C6H14O.C6H12/c1-5(2)7-6(3)4;1-2-4-6-5-3-1/h5-6H,1-4H3;1-6H2
